US05420308
152.0 g (1.0 mol) of o-vanillin and 200 ml of azeotropic hydrobromic acid (47.5% strength) are stirred under reflux in 500 ml of glacial acetic acid for 2.5 hours. The acid mixture is then distilled off and the residue is subjected to fractional vacuum distillation. The redistilled fraction having a boiling point of 120°-125° C./12 mbar is purified by recrystallisation from 1 l of heptane (hexane is also possible and is recovered). 97 g (70% of theory) of 2,3-dihydroxybenzaldehyde of melting point 105°-107° C. are obtained.

reactant | o-vanillin | 1.0 mol, 152.0 g | O=CC1=C(O)C(OC)=CC=C1 | C8H8O3
reactant | hydrobromic acid | 200 ml | Br | BrH
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 2,3-dihydroxybenzaldehyde | 97 g, 70% | OC1=C(C=O)C=CC=C1O | C7H6O3
